US07094801B2
4-(3E-{2-Methoxy-4-[2-(2-methoxy-ethoxy)-ethoxy]-5-thiophen-2-yl-phenyl}-acryloyl)-benzoic acid
The title compound was prepared by condensing 2-methoxy-4-[2-(2-methoxy-ethoxy)-ethoxy]-5-thiophen-2-yl-benzaldehyde (Ex-49A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 174–175° C., 61% yield. 1H-NMR (300 MHz, DMSO-d6) δ 8.28 (s, 1H), 8.23 (d, 2H, J=8.1 Hz), 8.05–8.11 (m, 3H), 7.91 (d, 1H, J=15.3 Hz), 7.72 (d, 1H, J=2.7 Hz), 7.52 (d, 1H, J=4.2 Hz), 7.11–7.15 (m, 1H), 6.86 (s, 1H), 4.39 (t, 2H, J=3.9 Hz), 3.99 (s, 3H), 3.89 (t, 2H, J=3.9 Hz), 3.64 (t, 2H, J=3.9 Hz), 3.48 (t, 2H, J=3.9 Hz), 3.25 (s, 3H). MS (ESI) m/z=483 ([M+H]+, 100%). Anal. Calcd. for C26H26O7S: C, 64.71; H, 5.43; S, 6.64. Found: C, 64.43; H, 5.34; S, 6.54.

reactant | 2-methoxy-4-[2-(2-methoxy-ethoxy)-ethoxy]-5-thiophen-2-yl-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OCCOCCOC)C=1SC=CC1 | C17H20O5S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-(3E-{2-Methoxy-4-[2-(2-methoxy-ethoxy)-ethoxy]-5-thiophen-2-yl-phenyl}-acryloyl)-benzoic acid | 61% yield | COC1=C(C=C(C(=C1)OCCOCCOC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C26H26O7S
